US05932601
In substantially the same manner as in Working Example 9, 5-[3-(4-hydroxy-3,5-dimethoxyphenyl)propyl]-2,4-oxazolidinedione was reacted with 4-chloromethyl-5-methyl-2-[(E)-styryl]oxazole to obtain 5-[3-[3,5-dimethoxy-4-[2-[(E)-styryl]-4-oxazolylmethoxy]phenyl]propyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.94-95° C.

reactant | 5-[3-(4-hydroxy-3,5-dimethoxyphenyl)propyl]-2,4-oxazolidinedione | OC1=C(C=C(C=C1OC)CCCC1C(NC(O1)=O)=O)OC | C14H17NO6
reactant | 4-chloromethyl-5-methyl-2-[(E)-styryl]oxazole | ClCC=1N=C(OC1C)\C=C\C1=CC=CC=C1 | C13H12ClNO
product | 5-[3-[3,5-dimethoxy-4-[2-[(E)-styryl]-4-oxazolylmethoxy]phenyl]propyl]-2,4-oxazolidinedione | COC=1C=C(C=C(C1OCC=1N=C(OC1)\C=C\C1=CC=CC=C1)OC)CCCC1C(NC(O1)=O)=O | C26H26N2O7
